US04923885
3,5-Dichloro-4-[(l-naphthyl)thio)benzyl amine
A solution of 25 g of 3,5-dichloro-4-[(l-naphthyl)thio]benzene carboxamide in 150 ml of dry tetrahydrofuran (THF) is treated with 230 ml of 1.0 M BH3 -THF complex. The resulting solution is heated at reflux for 16 hours. The reaction mixture is cooled with ice and quenched with excess 2 N HCl. The mixture is then made basic with NaOH and extracted with methylene chloride. The combined extracts are washed with water and dried with anhydrous magnesium sulfate. Concentration under reduced pressure affords the crude product which is purified by column chromatography on silica gel.

reactant | 3,5-dichloro-4-[(l-naphthyl)thio]benzene carboxamide | 25 g | ClC=1C=C(C=C(C1SC1=CC=CC2=CC=CC=C12)Cl)C(=O)N | C17H11Cl2NOS
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3,5-Dichloro-4-[(l-naphthyl)thio)benzyl amine | ClC=1C=C(CN)C=C(C1SC1=CC=CC2=CC=CC=C12)Cl | C17H13Cl2NS
